US07612114B2
6-{2-{(2-Fluoroethyl)[3-fluoro-4-(2-piperidin-1-ylethoxy)benzyl]amino}-4-hydroxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol
solution of {5-(tert-butyldimethylsilyloxy)-2-[6-(tert-butyldimethylsilyloxy)-1,2,3,4-tetrahydronaphthalen-2-yl]phenyl}(2-fluoroethyl)[3-fluoro-4-(2-piperidin-1-ylethoxy)benzyl]amine (200 mg) in tetrahydrofuran (10 ml) were sequentially added tetrabutylammonium fluoride (1.0 M solution in tetrahydrofuran) (1 ml) and hydrochloric acid-methanol solution (1 ml) on an ice bath, and the solution was stirred for 8 hours at 50° C. The reaction solution was alkalinized by adding aqueous ammonia, the solution was extracted with ethyl acetate, then washed with brine, dried over anhydrous magnesium sulfate, and then the solvent was evaporated in vacuo. The residue was purified by NH silica gel column chromatography (hexane-ethyl acetate-methanol system) to provide the title compound (140 mg).

reactant | {5-(tert-butyldimethylsilyloxy)-2-[6-(tert-butyldimethylsilyloxy)-1,2,3,4-tetrahydronaphthalen-2-yl]phenyl}(2-fluoroethyl)[3-fluoro-4-(2-piperidin-1-ylethoxy)benzyl]amine | 200 mg | [Si](C)(C)(C(C)(C)C)OC=1C=CC(=C(C1)N(CC1=CC(=C(C=C1)OCCN1CCCCC1)F)CCF)C1CC2=CC=C(C=C2CC1)O[Si](C)(C)C(C)(C)C | C44H66F2N2O3Si2
reactant | tetrabutylammonium fluoride | 1.0 M, 1 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | hydrochloric acid methanol | 1 ml | Cl.CO
reactant | ammonia | N | H3N
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 6-{2-{(2-Fluoroethyl)[3-fluoro-4-(2-piperidin-1-ylethoxy)benzyl]amino}-4-hydroxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol | 140 mg | FCCN(C1=C(C=CC(=C1)O)C1CC=2C=CC(=CC2CC1)O)CC1=CC(=C(C=C1)OCCN1CCCCC1)F | C32H38F2N2O3
